US06248739B1
N-(4-Chlorobenzyl)-1-[3-(methylsulfinyl)propyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-1-[3-(methylsulfanyl)propyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide (0.10 gm) from Example No. 61 in dichloromethane (2 mL) at 0° C. is added p-toluenesulfonic acid hydrate (0.04 gm) followed by m-chloroperoxybenzoic acid (˜85%)(0.045 gm). The mixture is stirred for 0.5 hrs. The reaction mixture is diluted with dichloromethane, washed with saturated aqueous sodium sulfite, saturated aqueous sodium bicarbonate, brine, dried (Na2SO4) and concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with 3% to 9% methanol in dichloromethane. The product fractions are combined and recrystallized from ethyl acetate-methanol-hexanes to afford 0.07 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-1-[3-(methylsulfanyl)propyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.10 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CCCSC)C=C1 | C26H30ClN3O3S
reactant | p-toluenesulfonic acid hydrate | 0.04 gm | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | m-chloroperoxybenzoic acid | 0.045 gm | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(4-Chlorobenzyl)-1-[3-(methylsulfinyl)propyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.07 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CCCS(=O)C)C=C1 | C26H30ClN3O4S
